US07462630B2
Synthesis of N-[3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-3-oxopropyl]-2,2-dimethylpropanamide:
106 mg (0.218 mmol) of methyl 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-[(2,2-dimethylpropanoyl)amino]-4-oxobutanoate was dissolved in 3 ml of tetrahydrofuran. 5.7 mg (0.261 mmol) of lithium borohydride was added to the obtained solution at 0° C. The reaction mixture was stirred for 1.5 hours and then saturated aqueous ammonium chloride solution was added thereto. After extracting with ethyl acetate 3 times, the extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound.

reactant | methyl 4-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-[(2,2-dimethylpropanoyl)amino]-4-oxobutanoate | 0.218 mmol, 106 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CC(C(=O)OC)NC(C(C)(C)C)=O)=O | C30H34N2O4
reactant | lithium borohydride | 0.261 mmol, 5.7 mg | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-[3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-1-(hydroxymethyl)-3-oxopropyl]-2,2-dimethylpropanamide | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CC(CO)NC(C(C)(C)C)=O)=O | C29H34N2O3
